Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[O:3][C@@:4]1([O:5][H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],53.545875024347296
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[H:8][H:11].[O:1]([C:2]1=[C:4]([C:5]#[N:6])[C:3]1([H:9])[H:10])[H:7],104.85071517533001
[N:1](=[C:2](/[O:3][C@:4]1([H:11])[C:5]([H:12])([H:13])[C:6][N:7]1[H:10])[H:9])\[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],47.006934679859796
[C:1]([N+:6]#[C-:5])([H:7])([H:8])[H:9].[O:2]=[C:3]=[O:4]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9],80.17661265780859
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:13])([H:8])([H:9])[H:10].[C:3](=[C:4]([O:5][H:14])[C:6]([O:7][H:17])([H:15])[H:16])([H:11])[H:12],65.9343399849363
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[N:3]([H:11])[C@@:6]([H:14])([C:5]([H:12])([H:13])[O:4]1)[O:7]2)([H:8])([H:9])[H:10],61.192599773138596
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1]#[C:2][C:3](=[C:4]=[O:5])[H:8].[N:6]#[N:7],27.9333351836097
[C:1]([O:2][H:10])([H:7])([H:8])[H:9].[C:3](=[O:4])=[C:5]([O:6][H:12])[H:11]>>[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],22.156577222573198
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O+:4]=[C-:3][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],111.434975792414
[C:1]([C:3](=[C:2])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],11.399319974001493
[C:1]([C@@:2]12[O:3][N:6]([H:12])[C@:5]1([H:11])[N:4]2[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],22.522978200167103
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:4]([C:2](=[O:3])[C:6]#[C:7][H:15])([H:12])[H:13])([H:8])([H:9])[H:10].[O:5]([H:11])[H:14],62.3321797323577
[C-:4]#[N+:5][C:6]([H:13])([H:14])[H:15].[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[H:11][H:12]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],37.356236876237006
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1](/[C:2](=[N:3]/[H:8])[H:7])[C:5]1=[C:6]([H:11])[C:4]1([H:9])[H:10],66.7391923812477
[N:1]#[C:2][C:3]1=[C:4]([H:8])[N:7]1/[N:6]=[N:5]/[H:9]>>[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1,7.09745220157042
[C:1]([C:2]1=[O+:4][C:3]([H:10])([H:11])[C:5]1=[N-:6])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],2.2568836505962153
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:3]([C:2]([N:7]=[C:6]=[C:4]([C:5]([H:16])([H:17])[H:18])[H:15])([H:11])[H:12])([H:13])[H:14])([H:8])([H:9])[H:10],98.93275096726471
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[N+:4]2([C:3]1([H:11])[H:15])[C:5]([H:12])([H:13])[C-:6]2[H:14]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11],39.43806376249841
[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[C:4]=[C:5]=[O:6])[H:10])([H:7])([H:8])[H:9].[H:11][H:12],51.238149412496796
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[H:9][H:11].[O:1]=[C:2](/[N:3]=[C:4](/[C:5]([C:6]#[C:7][H:14])([H:12])[H:13])[H:10])[H:8],99.6406108900737
[N:1](=[c:2]1\[c:6]([H:9])[n:7]1)\[H:8].[O:3]=[C:4]=[O:5]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],34.211249109204694
[C:1]([H:7])([H:8])([H:9])[H:12].[C:2](\[O:3][H:11])(=[C:4](/[C:5]([O:6][H:16])([H:14])[H:15])[H:13])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],87.2840011499281
[C-:4](=[N+:5]([C:6](=[O:7])[H:16])[H:15])[H:13].[C:1]([O:2][C:3]([H:11])([H:12])[H:14])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],27.899957078242906
[C:1]([C:5](=[O:6])[H:12])([H:7])([H:8])[H:9].[N:2]#[C:3][N:4]([H:10])[H:11]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],74.2149964471571
[C:4](=[O:5])([C:6]([O:7][H:15])([H:13])[H:14])[H:10].[O:1]([C:2](=[C:3]([H:11])[H:12])[H:9])[H:8]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],43.5516071200264
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[H:10][H:11].[N-:1]([C:2]1=[C:3]([H:8])[C:4]([H:9])=[C:5]=[O+:6]1)[H:7],74.9534752181134
